US07893274B2
Into a round-bottom flask having a capacity of 25 mL were introduced 257 mg (1 mmol) of phenylalanine t-butyl ester hydrochloride and 10 mL of tetrahydrofuran. To the resultant solution was added 101 mg (1 mmol) of triethylamine. The mixture was stirred at room temperature for 1 hour. This reaction mixture was filtered through a syringe filter to obtain a tetrahydrofuran solution of phenylalanine t-butyl ester. To this solution was added 304 mg (1 mmol) of bis(4-nitrophenyl) carbonate. The mixture was stirred at room temperature for 3 hours. This reaction mixture was analyzed by NMR spectroscopy using dioxane as an internal reference. As a result, it was found that N-(4-nitrophenoxycarbonyl)phenylalanine t-butyl ester had been obtained in a yield of 97%. Furthermore, this reaction mixture was subjected to column isolation to obtain N-(4-nitrophenoxycarbonyl)phenylalanine t-butyl ester in an amount of 352 mg (isolation yield, 91%).

reactant | phenylalanine t-butyl ester hydrochloride | 1 mmol, 257 mg | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | phenylalanine t-butyl ester | yield of 97% | C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O | C13H19NO2
